US08008307B2
Step a: tert-butyl (aminosulfonyl)({(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)-oxy]cyclopentyl}methyl)carbamate
To a solution of {(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)oxy]cyclopentyl}methanol (105.3 mg, 0.0002168 mol), N-Boc-sulfonamide (58.9 mg, 0.000300 mol) and triphenylphosphine (85.3 mg, 0.000325 mol) in EtOAc (4.15 mL) under an atmosphere of nitrogen was added diethyl azodicarboxylate (51.9 μL, 0.000330 mol). The mixture was stirred for four hours. The solvent was removed and the orange residue was purified by flash chromatography (10 to 50% EtOAc/hexanes) to obtain 135.2 mg (94%) of the title compound.

reactant | {(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)oxy]cyclopentyl}methanol | 0.0002168 mol, 105.3 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)OC1=NC=NC(=C1)N[C@H]1[C@H](CC2=CC=CC=C12)OC)CO | C26H39N3O4Si
reactant | N-Boc-sulfonamide | 0.000300 mol, 58.9 mg | C(=O)(OC(C)(C)C)NS(=O)=O | C5H11NO4S
reactant | triphenylphosphine | 0.000325 mol, 85.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.000330 mol, 51.9 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | EtOAc | 4.15 mL | CCOC(=O)C | C4H8O2
product | tert-butyl (aminosulfonyl)({(1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(6-{[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)-oxy]cyclopentyl}methyl)carbamate | 135.2 mg, 94% | NS(=O)(=O)N(C(OC(C)(C)C)=O)C[C@H]1[C@H](C[C@@H](C1)OC1=NC=NC(=C1)N[C@H]1[C@H](CC2=CC=CC=C12)OC)O[Si](C)(C)C(C)(C)C | C31H49N5O7SSi
